US04138588
n-Butyraldehyde was added to an approx. 3% aqueous sodium hydroxide solution with a ratio of 9 parts by weight sodium hydroxide solution to 1 part by weight aldehyde, and intensively mixed at a temperature of 100° to 130° C. 2-Ethylhexenal, which was formed by cleavage of water, was then hydrogenated with a fixed bed nickel catalyst in the gas phase at approx. 110° C. The hydrogenation product had the following composition:

reactant | n-Butyraldehyde | C(CCC)=O | C4H8O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | O | H2O
product | 2-Ethylhexenal | C(C)C(C=O)=CCCC | C8H14O
